** sch_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/VCO3_selection.sch
.subckt VCO3_selection gd VP f5_n f0 after_000111_n 001 f1 110 011 101 000 after_000011_n after_000111 after_001111 100
+ after_001111_n after_000011 010 VCO3_11_sel VCO3_5_sel f5
*.PININFO gd:B VP:B f0:I f1:I VCO3_11_sel:O VCO3_5_sel:O 011:I after_000111:I after_001111_n:I 010:I 001:I 101:I f5_n:I 100:I
*+ after_000011:I after_000011_n:I 110:I 000:I after_000111_n:I after_001111:I f5:I
x45 VP gd 011 net1 after_000111 after_001111_n NAND_3in
x46 net1 net2 VP gd inverter
x47 VP gd 010 net3 after_000111 f5_n NAND_3in
x48 net3 net4 VP gd inverter
x49 net5 net6 VP gd inverter
x50 VP gd 001 net5 f5 NAND_2in
x51 net7 net8 VP gd inverter
x52 VP gd 101 net7 after_000011_n NAND_2in
x53 VP gd 100 net9 after_000011 after_000111_n NAND_3in
x54 net9 net10 VP gd inverter
x55 VP gd 110 net11 after_000011_n net12 NAND_3in
x56 net11 net16 VP gd inverter
x57 VP gd net13 VCO3_5_sel net14 net15 NAND_3in
x58 VP gd net2 net13 net4 NOR_2in
x59 VP gd net6 net14 net8 NOR_2in
x60 VP gd net10 net15 net16 NOR_2in
x61 VP gd f0 net17 f1 XNOR
x62 net17 net12 VP gd inverter
x63 VP gd 011 net18 after_000011_n net23 NAND_3in
x64 net18 net19 VP gd inverter
x65 VP gd 011 net20 after_000011 after_000111_n NAND_3in
x66 net20 net21 VP gd inverter
x67 VP gd net19 net22 net21 NOR_2in
x69 VP gd f0 net23 f1 XNOR
x70 VP gd 001 net24 after_000111 f5_n NAND_3in
x71 net24 net25 VP gd inverter
x72 net26 net27 VP gd inverter
x73 VP gd 000 net26 after_001111 NAND_2in
x74 net28 net29 VP gd inverter
x75 VP gd 100 net28 after_000011_n NAND_2in
x76 VP gd 010 net30 after_000011 after_000111_n NAND_3in
x77 net30 net31 VP gd inverter
x68 VP gd net32 VCO3_11_sel net33 net22 NAND_3in
x78 VP gd net25 net32 net27 NOR_2in
x79 VP gd net29 net33 net31 NOR_2in
.ends

* expanding   symbol:  NAND_3in.sym # of pins=6
** sym_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/NAND_3in.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/NAND_3in.sch
.subckt NAND_3in VP GND a y b c
*.PININFO y:O GND:B a:I VP:B b:I c:I
MM1 y a net2 GND sg13_lv_nmos w=0.15u l=0.13u ng=1
MM3 net2 b net1 GND sg13_lv_nmos w=0.15u l=0.13u ng=1
MM4 net1 c GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1
MM7 y c VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1
MM2 y a VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1
MM5 y b VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1
.ends


* expanding   symbol:  inverter.sym # of pins=4
** sym_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/inverter.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/inverter.sch
.subckt inverter IN OUT VP GND
*.PININFO IN:I VP:B OUT:O GND:B
MM1 OUT IN GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1
MM2 OUT IN VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1
.ends


* expanding   symbol:  NAND_2in.sym # of pins=5
** sym_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/NAND_2in.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/NAND_2in.sch
.subckt NAND_2in VP GND a y b
*.PININFO y:O GND:B a:I VP:B b:I
MM1 y a net1 GND sg13_lv_nmos w=0.15u l=0.13u ng=1
MM3 net1 b GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1
MM2 y b VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1
MM4 y a VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1
.ends


* expanding   symbol:  NOR_2in.sym # of pins=5
** sym_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/NOR_2in.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/NOR_2in.sch
.subckt NOR_2in VP GND a y b
*.PININFO y:O GND:B a:I VP:B b:I
MM3 y a GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1
MM2 y b net1 VP sg13_lv_pmos w=0.15u l=0.13u ng=1
MM4 net1 a VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1
MM5 y b GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1
.ends


* expanding   symbol:  XNOR.sym # of pins=5
** sym_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/XNOR.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/XNOR.sch
.subckt XNOR VP GND a y b
*.PININFO y:O GND:B a:I VP:B b:I
MM1 y a net1 GND sg13_lv_nmos w=0.15u l=0.13u ng=1
MM3 net1 _b GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1
MM2 net2 a VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1 m=4
MM4 net3 _a VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1 m=4
MM5 y _a net4 GND sg13_lv_nmos w=0.15u l=0.13u ng=1
MM6 net4 b GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1
MM7 y b net2 VP sg13_lv_pmos w=0.15u l=0.13u ng=1 m=4
MM8 y _b net3 VP sg13_lv_pmos w=0.15u l=0.13u ng=1 m=4
x1 a _a VP GND inverter
x2 b _b VP GND inverter
.ends

